Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Codeine / Lisinopril
 
Attending: ___
 
Chief Complaint:
Rectocele
 
Major Surgical or Invasive Procedure:
Posterior colporrhaphy 

 
History of Present Illness:
___ ___ woman who presents with constipation, 
vaginal bulge.
The patient had a vaginal hysterectomy, anterior perigee with 
mesh and posterior repair in ___ ___ advanced 
pelvic organ prolapse. She is not sexually active and denies any 
pelvic or vaginal pain. The patient does have urinary frequency, 
voiding every 30 minutes.  As a result of this, she is avoiding 
fluids.  She does feel like she empties her bladder well.  She 
does note urinary hesitancy and sometimes has to sit and wait 
before her urine
stream is initiated.  She also notes some hesitancy.  She denies 
any dysuria or significant urinary incontinence. She does suffer 
from chronic constipation and has been to the emergency room 
twice for constipation.  She complains of hard
stools. 
 
Past Medical History:
Chronic constipation, hypertension, and
osteoporosis.

Past Surgical History:  Vaginal hysterectomy, anterior perigee,
and posterior repair, Dr. ___ in ___.

Past Obstetrical History:  Nine pregnancies in total, six 
vaginal
deliveries, six living children, three abortions.  Birth weight
of largest baby delivered vaginally 6 pounds.  Negative for
forceps or vacuum-assisted vaginal delivery on history.

Past GYN History:  The patient went into menopause at age ___. 
She has no history of sexual abuse.  Her last Pap was ___ and
was normal.  Last mammogram was ___.

 
Social History:
___
Family History:
Mother: uterine cancer
 
Physical Exam:
On ___ by Dr. ___:
Vital Signs:  Weight 138, height 5 feet,
blood pressure 153/83, pain score is 0, and pulse is 94. 
General:  Well developed, well groomed, normal body habitus. 
Psych:  Oriented x3, very pleasant.  Skin:  Warm and dry, no
atypical lesions or rashes noted.  Neck:  Trachea midline.  
Lymph
Nodes:  No inguinal lymphadenopathy.  Pulmonary:  Normal
respiratory effort.  No use of accessory muscles.  Abdomen: 
Soft, nontender.  No masses, guarding, or rebound.  No
hepatosplenomegaly.  Cardiovascular:  No pedal edema or 
excessive
varicosities.  Neurologic:  Normal gait, grossly normal 
sensation
to light touch in the saddle region.  Bulbocavernosus reflexes
and anal wink reflexes are positive.  Genitourinary:  External
genitalia are grossly normal, no lesions or discharge.  Urethral
Meatus:  No caruncle or prolapse.  Urethra is nontender with no
masses or exudate.  Bladder:  Nonpalpable, nontender.  Vagina is
atrophic.  The introitus is gaping with a stage II rectocele. 
See POP-Q below.  The vaginal apex is quite thin.  There is what
looks like an Ethibond suture eroded in the right vaginal vault
the area around of which is friable.  The patient has some
tenderness.  On bimanual exam, there are no pelvic masses noted. 

No tenderness or masses in the anus and perineum either.  The
Ethibond sutures at the right vaginal vault were cut and we
removed three pieces of suture with the length varying from 2 cm
to 4 cm.  Silver nitrate was applied at that area.  Hemostasis
was good.  The patient tolerated the suture removal well.  On
bimanual exam, the anterior mesh was palpated.  No mesh erosion
was visualized.

POP-Q:  
Aa -3, Ba -3, C -5.
___ 5, PB 3.5, TVL 6.
Ap +1.5, Bp +1.5.

The supine empty stress test was negative
 
Pertinent Results:
None
 
Brief Hospital Course:
Ms. ___ underwent posterior colporrhaphy. Please see operative 
report for full details.  The patient was then admitted to the 
GYN service. On post-operative day 1 she was ambulating, voiding 
spontaneously, tolerating a regular diet and controlling her 
pain on PO pain medications. She was discharged home in good 
condition with follow-up on POD1 with follow-up.
 
Medications on Admission:
AMLODIPINE - 10 mg Tablet - one Tablet(s) by mouth daily
CONJUGATED ESTROGENS [PREMARIN] - 0.625 mg/gram Cream - 1 gram 
in
the vagina twice a week
HYDROCHLOROTHIAZIDE - 25 mg Tablet - 1 (One) Tablet(s) by mouth
once a day
HYDROCORTISONE - 2.5 % Cream - apply to hand and wrist once 
daily
for 2 weeks.
IBUPROFEN - 600 mg Tablet - 1 Tablet(s) by mouth three times a
day
SIMVASTATIN - 20 mg Tablet - one Tablet(s) by mouth daily
 

 
Discharge Medications:
1. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*45 Tablet(s)* Refills:*1*
2. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every six (6) hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rectocele

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no tampons, no douching, no sex), no 
heavy lifting of objects >10lbs for 6 weeks.  
* You may eat a regular diet  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.  
  
 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___